US04487764
(h) Z-D-Lys-Arg-D-Phe-Trp-Pro-OH
1.55 g of Z-D-Lys(Boc)-Arg-D-Phe-Trp-Pro-OBut are dissolved in 14.5 ml of 90 percent strength trifluoroacetic acid and 1.5 ml of ethyl mercaptan. The solution is left to stand for 1 hour at room temperature and is concentrated. The residue is dissolved in water and chromatographed over a weakly basic ion exchanger (acetate form). The eluate is freeze-dried. Yield 883 mg. The peptide is purified by being chromatographed in 90 percent strength methanol over a crosslinked, hydroxypropylated dextran gel. Yield 570 mg, [α]D22 =-24.6° (c=1, methanol).

reactant | Z-D-Lys(Boc)-Arg-D-Phe-Trp-Pro-OBut | 1.55 g | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C54H74N10O10
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl mercaptan | 1.5 ml | C(C)S | C2H6S
product | Z-D-Lys-Arg-D-Phe-Trp-Pro-OH | N([C@H](CCCCN)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C45H58N10O8
